US05994368
To a solution of 8-benzyloxy-4-hydroxymethyl-2-methylquinoline (148 mg) in N,N-dimethylformamide (1.5 ml) was added sodium hydroxide (60% in oil, 23.3 mg) under ice-cooling, and the mixture was stirred for 15 minutes at the same temperature. To the mixture was added methyl iodide (82.7 mg) under ice-cooling, and the mixture was stirred for 15 minutes at the same temperature and then overnight at ambient temperature. To the mixture was added saturated sodium bicarbonate solution, and the mixture was extracted with ethyl acetate. The organic layer was washed with water twice, dired over magnesium sulfate and concentrated in vacuo. The residue was purified by flash chromatography (Ethyl acetate:n-hexane=1:3, V/V) to give 8-benzyloxy-4-methoxymethyl-2-methylquinoline (123 mg) as pale yellow solid.

reactant | 8-benzyloxy-4-hydroxymethyl-2-methylquinoline | 148 mg | C(C1=CC=CC=C1)OC=1C=CC=C2C(=CC(=NC12)C)CO | C18H17NO2
reactant | sodium hydroxide | 23.3 mg | [OH-].[Na+]
reactant | methyl iodide | 82.7 mg | CI | CH3I
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | N,N-dimethylformamide | 1.5 ml | CN(C=O)C | C3H7NO
product | 8-benzyloxy-4-methoxymethyl-2-methylquinoline | 123 mg | C(C1=CC=CC=C1)OC=1C=CC=C2C(=CC(=NC12)C)COC | C19H19NO2
